US05760032
Reaction was carried out in the same manner as in Example 186 using trans-3-(2-hydroxyphenyl)propenoic acid (1.64 g), 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate (7.42 g), triethylamine (5.6 ml) and 1-benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate (Bop reagent, 4.42 g), and the obtained product was purified by silica gel column chromatography using a mixed solvent of ethyl acetate and methanol as an eluent to give 0.90 g of trans-N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3-(2-hydroxyphenyl)propenamide. NMR (270 MHz, CDCl3):1.17(3H,t,J=7.6 Hz), 2.21(3H,s), 2.78(2H,q, J=7.6 Hz), 4.33(1H,dd,J=4.3 Hz,15.5 Hz), 4.51(1H,dd,J=6.3 Hz,15.5 Hz), 6.60(1H,d,J=16.8 Hz), 6.75-6.90(3H), 7.18(1H,m), 7.35-7.65(6H), 8.52(1H,m), 10.01(1H,s)

reactant | trans-3-(2-hydroxyphenyl)propenoic acid | 1.64 g | OC1=C(C=CC=C1)/C=C/C(=O)O | C9H8O3
reactant | 3-aminomethyl-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazole di-p-toluenesulfonate | 7.42 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.C1(=CC=C(C=C1)S(=O)(=O)O)C.NCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C
reactant | 1-benzotriazolyloxytris(dimethylamino)phosphonium hexafluorophosphate | 4.42 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
product | trans-N-(4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethyl)-3-(2-hydroxyphenyl)propenamide | 0.90 g | ClC1=C(C(=O)C2=C(SC(=C2)CC)N2C(=NN=C2C)CNC(\C=C\C2=C(C=CC=C2)O)=O)C=CC=C1 | C26H23ClN4O3S
